US09376454B2
Step 3. Synthesis of 5-bromoisoindoline
To a solution of aqueous hydrobromic acid (16 mL, 48% solution in water), propionic acid (2.8 mL) and phenol (2 g) was added 5-bromo-2-(p-tolylsulfonyl)isoindoline (2.4 g, 6.8 mmol).

reactant | hydrobromic acid | 16 mL | Br | BrH
reactant | propionic acid | 2.8 mL | C(CC)(=O)O | C3H6O2
reactant | phenol | 2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 5-bromo-2-(p-tolylsulfonyl)isoindoline | 6.8 mmol, 2.4 g | BrC=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H14BrNO2S
product | 5-bromoisoindoline | BrC=1C=C2CNCC2=CC1 | C8H8BrN
